US07135475B2
A mixture of 2,4-dimethyl-thiazole-5-carboxylic acid (18.1 mg, 0.11 mmol) in dichloromethane (3.0 mL) at 25° C. was treated with triphenylphosphine (33 mg, 0.13 mmol). The reaction was cooled to 0° C. and was treated with N-chlorosuccinimide (19.9 mg, 0.15 mmol). This mixture was stirred at 0° C. for 20 min and then was warmed to 25° C. for 20 min. At this time, the reaction was treated with N-chlorosuccinimide (5.0 mg, 0.04 mmol) and 3-cyclopropylmethyl-1-(2-fluoro-benzyl)-8-(4-methylamino-benzyl)-3,7-dihydro-purine-2,6-dione (100 mg, 0.23 mmol) and was stirred at 25° C. for 2 d. At this time, the reaction was diluted with dichloromethane (100 mL) and then was washed with a saturated aqueous sodium bicarbonate solution (1×20 mL). The organics were dried over magnesium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230–400 mesh, 5:95 methanol/dichloromethane) afforded impure product. The resulting residue was purified by HPLC (15–60% acetonitrile/water (0.075% trifluoroacetic acid in both solvents) over 40 min). Fractions with the desired product were combined and concentrated in vacuo. The resulting residue was diluted with chloroform (100 mL) and was washed with a saturated aqueous sodium bicarbonate solution (25 mL). The aqueous layer was re-extracted with chloroform (1×50 mL). The combined organics were dried over magnesium sulfate, filtered, and concentrated in vacuo. The resulting solid was dried in vacuo for 24 h to afford 2,4-dimethyl-thiazole-5-carboxylic acid {4-[3-cyclopropylmethyl-1-(2-fluoro-benzyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-methyl-amide (30.2 mg, 45.8%) as a white solid: EI-HRMS m/e calcd for C30H29N6O3FS (M+H)+ 573.2079, found 573.2083.

reactant | 2,4-dimethyl-thiazole-5-carboxylic acid | 0.11 mmol, 18.1 mg | CC=1SC(=C(N1)C)C(=O)O | C6H7NO2S
reactant | triphenylphosphine | 0.13 mmol, 33 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-chlorosuccinimide | 0.15 mmol, 19.9 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | N-chlorosuccinimide | 0.04 mmol, 5.0 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 3-cyclopropylmethyl-1-(2-fluoro-benzyl)-8-(4-methylamino-benzyl)-3,7-dihydro-purine-2,6-dione | 0.23 mmol, 100 mg | C1(CC1)CN1C(N(C(C=2NC(=NC12)CC1=CC=C(C=C1)NC)=O)CC1=C(C=CC=C1)F)=O | C24H24FN5O2
solvent | dichloromethane | 3.0 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 2,4-dimethyl-thiazole-5-carboxylic acid {4-[3-cyclopropylmethyl-1-(2-fluoro-benzyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-methyl-amide | 30.2 mg, 45.8% | C1(CC1)CN1C(N(C(C=2NC(=NC12)CC1=CC=C(C=C1)N(C(=O)C1=C(N=C(S1)C)C)C)=O)CC1=C(C=CC=C1)F)=O | C30H29FN6O3S
